* NGSPICE file created from LUT.ext - technology: sky130A

.subckt sky130_fd_sc_hd__decap_3 VPWR VGND VPB VNB
X0 VPWR VGND VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.2262 pd=2.26 as=0 ps=0 w=0.87 l=0.59
X1 VGND VPWR VGND VNB sky130_fd_pr__nfet_01v8 ad=0.143 pd=1.62 as=0 ps=0 w=0.55 l=0.59
.ends

.subckt sky130_fd_sc_hd__dfrtp_1 VGND VPWR VPB VNB CLK D RESET_B Q
X0 a_805_47# a_761_289# a_639_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0441 pd=0.63 as=0.1401 ps=1.1 w=0.42 l=0.15
X1 a_1217_47# a_27_47# a_1108_47# VNB sky130_fd_pr__special_nfet_01v8 ad=0.0669 pd=0.75 as=0.0711 ps=0.755 w=0.36 l=0.15
X2 a_1283_21# a_1108_47# a_1462_47# VNB sky130_fd_pr__nfet_01v8 ad=0.1092 pd=1.36 as=0.06405 ps=0.725 w=0.42 l=0.15
X3 a_651_413# a_27_47# a_543_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.1155 pd=0.97 as=0.07245 ps=0.765 w=0.42 l=0.15
X4 a_1108_47# a_193_47# a_761_289# VNB sky130_fd_pr__special_nfet_01v8 ad=0.0711 pd=0.755 as=0.0999 ps=0.985 w=0.36 l=0.15
X5 VGND RESET_B a_805_47# VNB sky130_fd_pr__nfet_01v8 ad=0.1346 pd=1.15 as=0.0441 ps=0.63 w=0.42 l=0.15
X6 Q a_1283_21# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.3012 ps=2.66 w=1 l=0.15
X7 VPWR CLK a_27_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0864 pd=0.91 as=0.1664 ps=1.8 w=0.64 l=0.15
X8 a_448_47# D VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0651 pd=0.73 as=0.1092 ps=1.36 w=0.42 l=0.15
X9 a_761_289# a_543_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.0999 pd=0.985 as=0.1346 ps=1.15 w=0.64 l=0.15
X10 a_193_47# a_27_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.1092 pd=1.36 as=0.0567 ps=0.69 w=0.42 l=0.15
X11 a_1108_47# a_27_47# a_761_289# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0588 pd=0.7 as=0.12915 ps=1.185 w=0.42 l=0.15
X12 a_1462_47# RESET_B VGND VNB sky130_fd_pr__nfet_01v8 ad=0.06405 pd=0.725 as=0.12495 ps=1.015 w=0.42 l=0.15
X13 a_543_47# a_27_47# a_448_47# VNB sky130_fd_pr__special_nfet_01v8 ad=0.0594 pd=0.69 as=0.066 ps=0.745 w=0.36 l=0.15
X14 a_543_47# a_193_47# a_448_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.07245 pd=0.765 as=0.0651 ps=0.73 w=0.42 l=0.15
X15 a_448_47# D VGND VNB sky130_fd_pr__nfet_01v8 ad=0.066 pd=0.745 as=0.2205 ps=1.89 w=0.42 l=0.15
X16 VPWR a_1283_21# a_1270_413# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0819 pd=0.81 as=0.0567 ps=0.69 w=0.42 l=0.15
X17 VPWR a_1108_47# a_1283_21# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.1134 pd=1.38 as=0.0567 ps=0.69 w=0.42 l=0.15
X18 a_1270_413# a_193_47# a_1108_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0567 pd=0.69 as=0.0588 ps=0.7 w=0.42 l=0.15
X19 a_193_47# a_27_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.1664 pd=1.8 as=0.0864 ps=0.91 w=0.64 l=0.15
X20 a_1283_21# RESET_B VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0567 pd=0.69 as=0.0819 ps=0.81 w=0.42 l=0.15
X21 VPWR a_761_289# a_651_413# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.07035 pd=0.755 as=0.1155 ps=0.97 w=0.42 l=0.15
X22 Q a_1283_21# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.2087 ps=2.02 w=0.65 l=0.15
X23 a_639_47# a_193_47# a_543_47# VNB sky130_fd_pr__special_nfet_01v8 ad=0.1401 pd=1.1 as=0.0594 ps=0.69 w=0.36 l=0.15
X24 VGND a_1283_21# a_1217_47# VNB sky130_fd_pr__nfet_01v8 ad=0.12495 pd=1.015 as=0.0669 ps=0.75 w=0.42 l=0.15
X25 a_651_413# RESET_B VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.1092 pd=1.36 as=0.07035 ps=0.755 w=0.42 l=0.15
X26 VGND CLK a_27_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0567 pd=0.69 as=0.1092 ps=1.36 w=0.42 l=0.15
X27 a_761_289# a_543_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.12915 pd=1.185 as=0.2184 ps=2.2 w=0.84 l=0.15
.ends

.subckt sky130_fd_sc_hd__mux2_1 VGND VPWR VPB VNB X A1 S A0
X0 VPWR a_505_21# a_535_374# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0693 pd=0.75 as=0.0441 ps=0.63 w=0.42 l=0.15
X1 a_505_21# S VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.1176 pd=1.4 as=0.0693 ps=0.75 w=0.42 l=0.15
X2 a_218_374# S VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.07665 pd=0.785 as=0.15835 ps=1.395 w=0.42 l=0.15
X3 VGND a_505_21# a_439_47# VNB sky130_fd_pr__nfet_01v8 ad=0.1449 pd=1.11 as=0.0693 ps=0.75 w=0.42 l=0.15
X4 a_76_199# A0 a_218_374# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.1932 pd=1.34 as=0.07665 ps=0.785 w=0.42 l=0.15
X5 a_505_21# S VGND VNB sky130_fd_pr__nfet_01v8 ad=0.1092 pd=1.36 as=0.1449 ps=1.11 w=0.42 l=0.15
X6 a_439_47# A0 a_76_199# VNB sky130_fd_pr__nfet_01v8 ad=0.0693 pd=0.75 as=0.09975 ps=0.895 w=0.42 l=0.15
X7 a_535_374# A1 a_76_199# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0441 pd=0.63 as=0.1932 ps=1.34 w=0.42 l=0.15
X8 a_76_199# A1 a_218_47# VNB sky130_fd_pr__nfet_01v8 ad=0.09975 pd=0.895 as=0.0693 ps=0.75 w=0.42 l=0.15
X9 a_218_47# S VGND VNB sky130_fd_pr__nfet_01v8 ad=0.0693 pd=0.75 as=0.11285 ps=1.045 w=0.42 l=0.15
X10 VPWR a_76_199# X VPB sky130_fd_pr__pfet_01v8_hvt ad=0.15835 pd=1.395 as=0.26 ps=2.52 w=1 l=0.15
X11 VGND a_76_199# X VNB sky130_fd_pr__nfet_01v8 ad=0.11285 pd=1.045 as=0.169 ps=1.82 w=0.65 l=0.15
.ends

.subckt sky130_fd_sc_hd__xor2_1 VNB VPB VPWR VGND A X B
X0 X a_35_297# a_285_297# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.3 pd=2.6 as=0.26 ps=2.52 w=1 l=0.15
X1 X B a_285_47# VNB sky130_fd_pr__nfet_01v8 ad=0.25025 pd=1.42 as=0.08775 ps=0.92 w=0.65 l=0.15
X2 a_35_297# B VGND VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.169 ps=1.82 w=0.65 l=0.15
X3 a_117_297# B a_35_297# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.26 ps=2.52 w=1 l=0.15
X4 VPWR B a_285_297# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.135 ps=1.27 w=1 l=0.15
X5 VGND A a_35_297# VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.08775 ps=0.92 w=0.65 l=0.15
X6 VGND a_35_297# X VNB sky130_fd_pr__nfet_01v8 ad=0.208 pd=1.94 as=0.25025 ps=1.42 w=0.65 l=0.15
X7 a_285_297# A VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.135 ps=1.27 w=1 l=0.15
X8 VPWR A a_117_297# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.135 ps=1.27 w=1 l=0.15
X9 a_285_47# A VGND VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.08775 ps=0.92 w=0.65 l=0.15
.ends

.subckt sky130_fd_sc_hd__maj3_1 VPB VNB VGND VPWR X C A B
X0 X a_27_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.23725 pd=2.03 as=0.1474 ps=1.215 w=0.65 l=0.15
X1 X a_27_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.365 pd=2.73 as=0.2492 ps=1.565 w=1 l=0.15
X2 a_109_341# C a_27_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0441 pd=0.63 as=0.1092 ps=1.36 w=0.42 l=0.15
X3 a_27_47# B a_265_341# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0567 pd=0.69 as=0.0441 ps=0.63 w=0.42 l=0.15
X4 VGND A a_109_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0567 pd=0.69 as=0.0441 ps=0.63 w=0.42 l=0.15
X5 a_265_341# A VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0441 pd=0.63 as=0.0567 ps=0.69 w=0.42 l=0.15
X6 VPWR A a_109_341# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0567 pd=0.69 as=0.0441 ps=0.63 w=0.42 l=0.15
X7 a_421_47# B a_27_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0441 pd=0.63 as=0.0567 ps=0.69 w=0.42 l=0.15
X8 a_265_47# A VGND VNB sky130_fd_pr__nfet_01v8 ad=0.0441 pd=0.63 as=0.0567 ps=0.69 w=0.42 l=0.15
X9 VGND C a_421_47# VNB sky130_fd_pr__nfet_01v8 ad=0.1474 pd=1.215 as=0.0441 ps=0.63 w=0.42 l=0.15
X10 a_27_47# B a_265_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0567 pd=0.69 as=0.0441 ps=0.63 w=0.42 l=0.15
X11 VPWR C a_421_341# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.2492 pd=1.565 as=0.0441 ps=0.63 w=0.42 l=0.15
X12 a_421_341# B a_27_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0441 pd=0.63 as=0.0567 ps=0.69 w=0.42 l=0.15
X13 a_109_47# C a_27_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0441 pd=0.63 as=0.1092 ps=1.36 w=0.42 l=0.15
.ends

.subckt LUT clk in[0] in[1] is_sync rst_n shift_amt[0] shift_amt[1] y
*XPHY_EDGE_ROW_0_Left_4 _4_/VPWR FILLER_0_3/VGND _4_/VPB SUB sky130_fd_sc_hd__decap_3
*XPHY_EDGE_ROW_1_Right_1 _4_/VPWR _4_/VGND _4_/VPB SUB sky130_fd_sc_hd__decap_3
*XPHY_EDGE_ROW_1_Left_5 _4_/VPWR _4_/VGND _4_/VPB SUB sky130_fd_sc_hd__decap_3
*XPHY_EDGE_ROW_0_Right_0 _4_/VPWR FILLER_0_3/VGND _4_/VPB SUB sky130_fd_sc_hd__decap_3
X_4_ _4_/VGND _4_/VPWR _4_/VPB SUB clk _4_/D rst_n _4_/Q sky130_fd_sc_hd__dfrtp_1
X_3_ _4_/VGND _3_/VPWR _3_/VPB SUB y _4_/Q is_sync _4_/D sky130_fd_sc_hd__mux2_1
X_2_ SUB _3_/VPB _3_/VPWR _4_/VGND shift_amt[1] _4_/D _2_/B sky130_fd_sc_hd__xor2_1
X_1_ _3_/VPB SUB _1_/VGND _3_/VPWR _2_/B shift_amt[0] in[1] in[0] sky130_fd_sc_hd__maj3_1
*XPHY_EDGE_ROW_2_Left_6 _3_/VPWR _4_/VGND _3_/VPB SUB sky130_fd_sc_hd__decap_3
*XPHY_EDGE_ROW_3_Right_3 _3_/VPWR _1_/VGND _3_/VPB SUB sky130_fd_sc_hd__decap_3
*XPHY_EDGE_ROW_3_Left_7 _3_/VPWR _1_/VGND _3_/VPB SUB sky130_fd_sc_hd__decap_3
*XPHY_EDGE_ROW_2_Right_2 _3_/VPWR _4_/VGND _3_/VPB SUB sky130_fd_sc_hd__decap_3
.ends

